US04929747
[Production of t-amylperoxy 2,4-dimethylphenyl carbonate]
A reaction was carried out in the same manner as described in Example 1, except that t-amyl hydroperoxide and 2,4-dimethylphenyl chloroformate were used in place of t-butyl hydroperoxide and phenyl chloroformate used in Example 1, to obtain 35.7 g (yield: 65%) of a compound having a GLC purity of 92%, which was a colorless liquid at room temperature.

reactant | t-amyl hydroperoxide | C(C)(C)(CC)OO | C5H12O2
reactant | 2,4-dimethylphenyl chloroformate | ClC(=O)OC1=C(C=C(C=C1)C)C | C9H9ClO2
reactant | t-butyl hydroperoxide | C(C)(C)(C)OO | C4H10O2
reactant | phenyl chloroformate | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
product | t-amylperoxy 2,4-dimethylphenyl carbonate | 35.7 g, yield: 65% | C(OOOC(C)(C)CC)(OC1=C(C=C(C=C1)C)C)=O | C14H20O5
